US07465809B2
4-Amino-5-methoxy-2-trifluoromethyl-benzonitrile
4-Amino-5-iodo-2-trifluoromethyl-benzonitrile (312 mg, 1.0 mmol), CuI (I) (20 mg, 0.1 mmol), Cs2CO3 (652 mg, 2.0 mmol) and 1,10-phenanthroline (36 mg, 0.2 mmol) were mixed in methanol (20 ml). The reaction mixture was refluxed overnight and then the solvent was removed under vacuum. Upon separation on silica gel (100% CH2Cl2), the tile compound was obtained as a colorless liquid.

reactant | 4-Amino-5-iodo-2-trifluoromethyl-benzonitrile | 1.0 mmol, 312 mg | NC1=CC(=C(C#N)C=C1I)C(F)(F)F | C8H4F3IN2
reactant | Cs2CO3 | 2.0 mmol, 652 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 0.2 mmol, 36 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | methanol | 20 ml | CO | CH4O
catalyst | CuI | 0.1 mmol, 20 mg | [Cu]I
product | 4-Amino-5-methoxy-2-trifluoromethyl-benzonitrile | NC1=CC(=C(C#N)C=C1OC)C(F)(F)F | C9H7F3N2O
